US07655671B2
Synthesis of 17-allyl-4,5α-epoxy-3-methoxy-14β-(3-phenylpropyloxy)morphinan-6-one hypochloride (compound 1.HCl (Verbindung 1))
A mixture of 4,5α-epoxy-3-methoxy-14β-(3-phenylpropyloxy)morphinan-6-one hydrochloride (2.00 g, 4.76 mmol), potassium carbonate (4.00 g, 28.9 mmol) and allyl bromide (0.56 ml, 6.62 mmol) in water-free N,N-dimethylformamide (15 ml) was stirred for 7 h under exclusion of moisture and under nitrogen at 80° C. (bath temperature). After filtration from the inorganic residue, which was washed three times each time with 50 ml dichloromethane, the filtrate was evaporated down under reduced pressure. The oily residue was dissolved in 300 ml dichloromethane, washed with water (3×200 ml) and saturated sodium chloride solution (4×200 ml), dried over sodium sulphate and evaporated down. The obtained brown oil was purified by column chromatography (silica gel; CH2Cl2/MeOH/conc. NH4OH 250:2:0.5), the oily evaporation residue dissolved in 50 ml ether and precipitated by the addition of etherial HCl up to the acid reaction. The product was recrystallised from isopropanol. Yield: 1.50 g (69%) of the compound 1.HCl as colourless crystals. Fp. 129-130° C.; MS (CI): 460 (M++1); IR (KBr): 1725 (C═O) cm−1; 1H-NMR (DMSO-d6, δ in ppm): δ 8.98 (s, wide, HN+), 7.30-7.18 (m, 5 arom. H), 6.89 (d, 1 arom. H, J=8.4 Hz), 6.83 (d, 1 arom. H, J=8.4 Hz), 5.89 (m, 1 olef. H), 5.69 (m, 2 olef. H), 4.94 (s, CH-5), 3.81 (s, CH3O).

reactant | 4,5α-epoxy-3-methoxy-14β-(3-phenylpropyloxy)morphinan-6-one hydrochloride | 4.76 mmol, 2.00 g | Cl.O1C2=C(C=CC=3C[C@@H]4[C@@]5(CCC([C@H]1[C@@]5(C23)CCN4)=O)OCCCC4=CC=CC=C4)OC
reactant | potassium carbonate | 28.9 mmol, 4.00 g | C([O-])([O-])=O.[K+].[K+]
reactant | allyl bromide | 6.62 mmol, 0.56 ml | C(C=C)Br | C3H5Br
solvent | water | 15 ml | O | H2O
product | 17-allyl-4,5α-epoxy-3-methoxy-14β-(3-phenylpropyloxy)morphinan-6-one hypochloride | ClO.C(C=C)N1[C@H]2[C@@]3(CCC([C@H]4[C@@]3(C=3C(=C(C=CC3C2)OC)O4)CC1)=O)OCCCC1=CC=CC=C1 | InChI=1S/C29H33NO4.ClHO/c1-3-16-30-17-15-28-25-21-11-12-23(32-2)26(25)34-27(28)22(31)13-14-29(28,24(30)19-21)33-18-7-10-20-8-5-4-6-9-20;1-2/h3-6,8-9,11-12,24,27H,1,7,10,13-19H2,2H3;2H/t24-,27+,28+,29-;/m1./s1
